US07135600B2
viii) 3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]benzenesulfonamide
3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)but-1-ynyl]benzenesulfonamide (2.35 g) was stirred with platinum oxide (0.3 g) in THF (30 ml) under hydrogen for 2 h. The catalyst was removed by filtration using a filter aid and the filter cake was leached with ethyl acetate. The combined filtrates were passed through silica gel (200 g) in ethyl acetate and the eluate was evaporated to give the title compound (2.32 g), LCMS RT=3.49 min.

reactant | 3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)but-1-ynyl]benzenesulfonamide | 2.35 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCC#CC=2C=C(C=CC2)S(=O)(=O)N)C | C29H36N2O7S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | platinum oxide | 0.3 g | [Pt]=O
product | 3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]benzenesulfonamide | 2.32 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC=2C=C(C=CC2)S(=O)(=O)N)C | C29H40N2O7S
